Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Gluten / lactose
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ y/o female with a past medical history of DMI
(uses insulin pump, followed by ___, celiac disease, 
hypothyroidism, and HTN presenting from clinic for persistently 
elevated blood sugars, found to have DKA.

In clinic, the patient reports that for the past few days her 
blood sugar has been difficult to control, with persistent blood 
glucose
measurements in the 500s. Her glucometer will at times state 
"HI"
indicating that it is too high for measurement. She has been
giving herself boluses via her insulin pump. She does not know
how many units she gives herself since the pump does the
calculation. Her insulin pump stated that it had a low battery
and she changed the battery today, but otherwise she thinks the
pump has been working appropriately. She has not increased her
sugar intake. She reports decreased appetite. Last night she was
up all night urinating making it difficult for her to sleep. She
has been able to drink fluids and reports thirst.

She denies fevers, chills, cough, chest pain, sick contacts, 
nausea, vomiting, abdominal pain. She had one episode of 
diarrhea about ___ days ago. She reports fatigue and lethargy. 
 
In the ED, initial vitals:  98.4 90 142/60 16 99% RA.
Physical exam notable for dry mucus membranes and trace to 1+ 
edema bilaterally. 
CBC for WBC 7.9, H/H 9.3/30.7, Plt 327. BMP notable for a Na 
131, K 5.8, Cl 88, HCO3 13, BUN/Cr 40, 2.1.  UA with glucose and 
ketones, but negative nitrites and leuk esterase. Lactate 3.1 
CXR negative for acute pulmonary process. 
She received 4L NS and was placed on an insulin drip.
On transfer, vitals were:  102 138/63 18 100% RA 
 
On arrival to the MICU, the patient tells the story as above. 
She denies all symptoms, recent illnesses, sick contacts. She 
endorses urinary frequency and nocturia, but denies dysuria. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, rhinorrhea, abdominal pain, N/V, 
diarrhea, dysuria, and 7 other systems.

 
Past Medical History:
Diabetes mellitus type I
Chronic kidney disease
Celiac disease
Hypothyroidism
Hypertension
Glaucoma
Diabetic retinopathy
 
Social History:
___
Family History:
cousins with diabetes, no family history of heart disease 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.1 105 155/80 24 100% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, mucus membranes dry, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: tachycardiac, regular, no murmurs
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no cyanosis, 1+ pitting 
edema of bilateral extremities  
SKIN:  no rash
NEURO:  alert, oriented, moves all extremities against gravity, 
speech is fluent
.
Discharge exam:
afebrile 98.3, 128/50 HR 83  19 100% RA
FSBS: blood sugars in 200s.
General:  in NAD, sitting in chair
HEENT:  OP moist, no LAD, no thrush.
Lungs CTA B, no rales, wheezes
CV RRR without murmurs
Abdomen soft, NT, ND, NABS
Ext:  no edema
Neuro:  alert/oriented X3, answers questions appropriately. 
KNows day of week today.

 
Pertinent Results:
ADMISSION LABS:

___ 10:02PM   ___ PO2-38* PCO2-30* PH-7.17* TOTAL 
CO2-12* BASE XS--17
___ 10:02PM   LACTATE-2.5*
___ 06:41PM   GLUCOSE->500 LACTATE-3.1* K+-5.6*
___ 06:38PM   GLUCOSE-761* UREA N-40* CREAT-2.1* 
SODIUM-131* POTASSIUM-5.8* CHLORIDE-88* TOTAL CO2-13* ANION 
GAP-36*
___ 06:38PM   estGFR-Using this
___ 06:38PM   CALCIUM-9.8 PHOSPHATE-5.3*# MAGNESIUM-2.5
___ 06:38PM   NEUTS-77.0* LYMPHS-9.6* MONOS-11.3 EOS-0.5* 
BASOS-1.1* IM ___ AbsNeut-6.06 AbsLymp-0.76* AbsMono-0.89* 
AbsEos-0.04 AbsBaso-0.09*

___ 05:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-1000 KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 05:00PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1

CXR ___
IMPRESSION:  
No acute cardiopulmonary abnormality. 

Micro:
Blood cultures from admission ___ were no growth at the time of 
discharge.

Discharge labs:
___ 05:49AM BLOOD WBC-9.5 RBC-2.83* Hgb-8.8* Hct-27.3* 
MCV-97 MCH-31.1 MCHC-32.2 RDW-14.8 RDWSD-51.7* Plt ___
___ 05:41AM BLOOD Glucose-222* UreaN-20 Creat-1.3* Na-135 
K-4.8 Cl-105 HCO3-22 AnGap-13
 
Brief Hospital Course:
Ms. ___ is a ___ y/o female with a past medical history of 
DMI(uses insulin pump, followed by ___, celiac disease, 
hypothyroidism, and HTN presenting from clinic for persistently 
elevated blood sugars, found to have DKA.

# Diabetic Ketoacidosis: Patient presented with a history of 
persistent hyperglycemia, admission VBG 7.1/30/2.5. No 
localizing signs of infection. CXR without acute pulmonary 
process. UA negative. Etiology includes possible insulin pump 
dysfunction. She was placed on an ICU drip and monitored in the 
ICU. She was hydrated aggressively via the DKA protocol, with 
dextrose added once her glucose dropped ~250-300. She was 
evaluated by ___ and transitioned to sc lantus 2 units bid, 
and Humalog sliding scale.  Given concern for cognitive 
dysfunction contributing to her insulin pump problem, the pump 
was discontinued.  She will follow up with ___ on ___ to 
further discuss optimal insulin treatment.  Prescriptions were 
faxed to the pharmacy, and she and her husband were advised to 
monitor her blood sugar and call ___ as needed over the 
weekend.

# Acute on Chronic Kidney Disease: Admission Cr of 2.1, up from 
a baseline of 1.6-1.8, most likely prerenal in the setting of 
DKA, osmotic diuresis, and hypovolemia. Her creatinine 
downtrended with IV fluids and returned to baseline.

# Hyperkalemia: Admission K of 5.8, without EKG changes. Her 
home losartan was held given concern for dehydration and 
metabolic abnormalities, and restarted without elevated 
potassium.

# Anemia: Admission H/H 9.3/30.7, with outpatient Hb ~10. No 
signs or symptoms of active bleeding.  She should have 
outpatient repeat level checked.

# Likely cognitive dysfunction, possible early dementia:  She 
was seen by occupational therapy as well as the diabetes 
educator, and there was significant concerns regarding her 
cognitive ability to use her pump.  This may be related to 
repeated hypoglycemic episodes throughout her life.  Formal 
neurocognitive testing was recommended to her and her husband.  
This had been previously recommended by her new primary care 
doctor in ___.

Chronic issues:

# Hypothyroidism: Continued home levothyroxine.

# HTN: Held home losartan given metabolic abnormalities, and 
then restarted at discharge. 

Disposition to home.  She will be supported mainly by her 
husband.  She will also be followed by PACT.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180

4. Lactaid (lactase) 4500 units oral DAILY:PRN lactate meal 
5. Losartan Potassium 12.5 mg PO DAILY 

 
Discharge Medications:
1. Glargine 2 Units Breakfast
Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
2 Units before BKFT; 2 Units before BED; Disp #*1 Syringe 
Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 6 
Units QID per sliding scale Disp #*2 Syringe Refills:*0
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Losartan Potassium 12.5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Lactaid (lactase) 4500 units oral DAILY:PRN lactate meal 
6. BD Insulin Pen Needle UF Short (pen needle, diabetic) 31 
gauge x ___ miscellaneous 6 X daily 
RX *pen needle, diabetic [BD Insulin Pen Needle UF Short] 31 
gauge X ___ Use to inject insulin up to 6 times daily Disp #*2 
Box Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diabetic ketoacidosis
Type I diabetes mellitus with complications
Possible cognitive dysfunction
Hypertension
Chronic kidney disease, stage III
 
Discharge Condition:
Tolerating diet, blood sugars in 200s
 
Discharge Instructions:
You were admitted with diabetic ketoacidosis, from not using 
your insulin pump correctly.  You did not have an infection.

The ___ doctors saw ___ and recommended stopping your insulin 
pump and switching to lantus insulin and a sliding scale.  You 
have an appointment on ___ to talk about your insulin.

Keep track of your blood sugars over the weekend.
Call the ___ if you have any concerns.
 
Followup Instructions:
___